US06953857B2
3-[3-(2,4-dichloro-phenyl)-ureido]-benzoic acid
To a solution of 200 mg 3-Isocyanato-benzoic acid methyl ester in 2 ml ethyl acetate is added dropwise a solution of 162 mg 2,4-dichloroaniline in 1 ml ethyl acetate. After 5 h at RT the solvent was removed under reduced pressure and the residue dissolved in 5 ml MeOH/THF/H2O 2:2:1. 100 mg lithium hydroxide monohydrate was added and the mixture stirred over night at RT. After removal of the solvent the residue was acidified by addition of 5 ml half concentrated HCl. The precipitating acid was filtered off and dried.

reactant | 3-Isocyanato-benzoic acid methyl ester | 200 mg | COC(C1=CC(=CC=C1)N=C=O)=O | C9H7NO3
reactant | 2,4-dichloroaniline | 162 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-(2,4-dichloro-phenyl)-ureido]-benzoic acid | ClC1=C(C=CC(=C1)Cl)NC(NC=1C=C(C(=O)O)C=CC1)=O | C14H10Cl2N2O3
